US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluorophenyl}-N′-(2-methoxyphenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline (50 mg) was dissolved in chloroform (3 ml), and 2-methoxyphenyl isocyanate (32 μl) was then added to the solution. The mixture was stirred at 60° C. overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 22 mg (yield 30%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C16H14FN3O3
reactant | 2-methoxyphenyl isocyanate | 32 μl | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluorophenyl}-N′-(2-methoxyphenyl)urea | 22 mg, yield 30% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)OC)F | C24H21FN4O5
